### PR TITLE
chore: merge childInv and heightInv files

### PR DESCRIPTION
**Pull request by Daniel1854**
They require each other for proving that the operations preserve them. Thus we might as well merge their files.

### CODE REVIEW

File: Filrb/Internal/Invariants/RBInv.lean [hunk 1]
```diff
@@ -0,0 +1,162 @@
...
+  · intro h
+    cases h
+    simp_all
+  · rintro ⟨_, _⟩
+    apply ChildInv.black <;> assumption
+
+omit [Preorder α] [Ord α] [LawfulOrd α] in
+@[aesop safe apply]
+theorem childInv_node {l r : Raw α} (h : ChildInv (.node l d c r)) :
+    ChildInv l ∧ ChildInv r := by
```
Comment (hargoniX) [inline Filrb/Internal/Invariants/RBInv.lean:69]: Somewhat weird apply rule as you might accidentally construct a tree that's the wrong way around. Though you could register this as a forward rule I guess.

File: Filrb/Internal/Invariants/RBInv.lean [hunk 2]
```diff
@@ -0,0 +1,162 @@
...
+    (hhl : HeightInv l) (hhr : HeightInv r)
+    (hbh : blackHeightLeft l = blackHeightLeft r + 1) (heq : baldR x l r = t) :
+    (if l.isBlack then ChildInv t ∧ ChildInv2 t else ChildInv2 t)
+    ∧ HeightInv t ∧ blackHeightLeft t = blackHeightLeft l := by
+  sorry
+
+-- 8.1 has a requirement that for `split_min t = (x,t')` t has to be not nil?
+theorem rbInv_appendTrees_of_rbInv {l r t : Raw α} (hc : ChildInv (.node l d c r))
+    (hh : HeightInv (.node l d c r)) (heq : appendTrees l r = t) :
+    (if (Raw.node l d c r).isBlack then
```
Comment (hargoniX) [inline Filrb/Internal/Invariants/RBInv.lean]: This is equivalent to `c = black`?
